US09386769B2
0.8 g of lithium aluminum hydride and 20 mL of tetrahydrofuran were added in a 150 mL of single-neck flask equipped with a magnetic stirrer. After stirred for 0.5 to 1.0 hour under ice bath cooling, 1.5 g of N-ethyl-2,4-dimethylthiazole-5-carboxamide in 10 mL of tetrahydrofuran solution are added dropwise, and reacted at the same temperature for 0.5 to 10 hours, and then for 1 to 2 hours at room temperature. The reaction mixture was then extracted with ethyl acetate, the organic layer was separated while the aqueous layer was extracted with ethyl acetate twice. The organic phases were combined, and dried over anhydrous sodium sulfate after washed with an iced aqueous sodium chloride solution twice, then remove the solvent under reduced pressure to obtain 1.0 g of 2,4-dimethyl-5-ethylaminomethylthiazole which was used in the next step directly without purification.

reactant | lithium aluminum hydride | 0.8 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | N-ethyl-2,4-dimethylthiazole-5-carboxamide | 1.5 g | C(C)NC(=O)C1=C(N=C(S1)C)C | C8H12N2OS
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 2,4-dimethyl-5-ethylaminomethylthiazole | 1.0 g | CC=1SC(=C(N1)C)CNCC | C8H14N2S
